US07795283B2
iv) Benzyl [2-chloro-4-(4-oxocyclohexyl)phenyl]carbamate
Water (1 mL) was added in one portion to a stirred solution of benzyl [2-chloro-4-(1,4-dioxaspiro[4.5]dec-8-yl)phenyl]carbamate (2.60 g, 6.47 mmol) in TFA (20 mL) and the reaction mixture was stirred at room temperature for 2 h. The mixture was cooled to 10° C. and a 2N aqueous solution of sodium hydroxide was added until the pH of the mixture was 10. Ethyl acetate (50 mL) was added and the layers were separated and the aqueous layer was extracted with ethyl acetate (50 mL). The combined organic layers were washed with H2O and brine, dried (MgSO4) and concentrated in vacuo to leave the title compound (2.3 g, 99%) as a solid; 1H NMR δ 1.82-1.99 (2H, m), 2.17-2.28 (2H, m), 2.45-2.57 (4H, m), 2.94-3.07 (1H, m), 5.24 (2H, s), 7.17 (1H, dd), 7.25 (1H, d), 7.32-7.5 (5H, m), 8.13 (1H, d); MS m/e (M−H)− 356.

reactant | Water | 1 mL | O | H2O
reactant | benzyl [2-chloro-4-(1,4-dioxaspiro[4.5]dec-8-yl)phenyl]carbamate | 6.47 mmol, 2.60 g | ClC1=C(C=CC(=C1)C1CCC2(OCCO2)CC1)NC(OCC1=CC=CC=C1)=O | C22H24ClNO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Benzyl [2-chloro-4-(4-oxocyclohexyl)phenyl]carbamate | 2.3 g, 99% | ClC1=C(C=CC(=C1)C1CCC(CC1)=O)NC(OCC1=CC=CC=C1)=O | C20H20ClNO3
